US06174889B1
5-(4-(1-Benzyl-1H-indazol-5-ylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde
(1-Benzyl-1H-indazol-5-yl)-(6-(5-[1,3-dioxolanyl]-furan-2-yl)-pyrido[3,4-d]-pyrimidin-4-yl)-amine (3.03 g) and 2N HCl (50 ml) were stirred in THF (50 ml) for 16 hr. The resulting precipitate was filtered and washed with water to give the thehydrochloride salt of the product; δH [2H6]DMSO 11.70 (1H,s), 9.74 (1H,s) 9.30 (1H,s), 9.27 (1H,s), 8.85 (1H,s), 8.23 (1H,s), 8.18 (1H,s), 7.68-7.87 (3H,m), 7.55 (1H,d), 7.22-7.38 (5H,m), 5.71 (2H,s). Subsequent neutralisation with triethylamine in ethanol/water gave the title compound; δH[2H6]-DMSO 9.64(1H,s), 9.19 (1H,s), 9.09(1H,s), 8.72(1H,s), 8.12(2H,m), 7.71(2H,m), 7.63(1H,dd), 7.43(1H,d), 7.20(5H,m), 5.62(2H,s).

reactant | (1-Benzyl-1H-indazol-5-yl)-(6-(5-[1,3-dioxolanyl]-furan-2-yl)-pyrido[3,4-d]-pyrimidin-4-yl)-amine | 3.03 g | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C=2OC(=CC2)C2OCCO2 | C28H22N6O3
reactant | HCl | 2N, 50 ml | Cl | ClH
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | ethanol water | C(C)O.O
product | 5-(4-(1-Benzyl-1H-indazol-5-ylamino)-pyrido[3,4-d]pyrimidin-6-yl)-furan-2-carbaldehyde | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)C2=CC=C(O2)C=O | C26H18N6O2
